US03976661
1,3-Diethyl-5-[5,5-dimethyl-1-(1-pyrrolidinyl)-1-cyclohexen-3-ylidene]-2-thiobarbituric acid ##SPC6##
N-(3-Chloro-5,5-dimethylcyclohex-2-en-1-ylidene)-pyrrolidinium perchlorate (3.1 g., 0.01 mol.), 1,3-diethyl-2-thiobarbituric acid (2.0 g., 0.091 mol.) and triethylamine (3.1 ml.) are dissolved in ethanol (15 ml.) and heated at reflux for 10 minutes. After chilling, the crude dye is collected on a filter, rinsed with ethanol and dried. After one recrystallization from methanol, the yield of purified dye is 2.3 g. (64%), m.p. 226°-227°C. This dye is an excellent spectral sensitizer for photographic silver halide emulsions as shown in Table 2 hereinafter.

reactant | N-(3-Chloro-5,5-dimethylcyclohex-2-en-1-ylidene)-pyrrolidinium perchlorate | 0.01 mol, 3.1 g | Cl(=O)(=O)(=O)[O-].ClC1=CC(CC(C1)(C)C)=[N+]1CCCC1
reactant | 1,3-diethyl-2-thiobarbituric acid | 0.091 mol, 2.0 g | C(C)N1C(=S)N(C(=O)CC1=O)CC | C8H12N2O2S
reactant | triethylamine | 3.1 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1,3-Diethyl-5-[5,5-dimethyl-1-(1-pyrrolidinyl)-1-cyclohexen-3-ylidene]-2-thiobarbituric acid | C(C)N1C(=S)N(C(=O)C(C1=O)=C1C=C(CC(C1)(C)C)N1CCCC1)CC | C20H29N3O2S
